US05591694
c) 2-(Ethylsulfonyl)benzenesulfonyl isocyanate
102.8 g (0.865 mol) of thionyl chloride were added to 71.8 g (0.288 mol) of 2-(ethylsulfonyl)benzenesulfonamide in 500 ml of 1,2-dichloroethane in the course of 30 minutes while stirring at from 70° to 80° C., and the refluxed mixture was stirred for 2.5 hours. After the mixture had been cooled to 50° C., 2 ml of pyridine were added and gaseous phosgene was passed into the refluxed mixture in the course of 5 hours while stirring. Evaporating down gave 84.1 g of the title compound, which was taken up directly in 1,2-dichloroethane for storage.

reactant | thionyl chloride | 0.865 mol, 102.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(ethylsulfonyl)benzenesulfonamide | 0.288 mol, 71.8 g | C(C)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N | C8H11NO4S2
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | 1,2-dichloroethane | 500 ml | ClCCCl | C2H4Cl2
product | 2-(Ethylsulfonyl)benzenesulfonyl isocyanate | 84.1 g | C(C)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H9NO5S2
